US04359420
A suspension of 12.1 g (45 mmol) of (S)-11,12,13,13a-tetrahydro-1-(hydroxymethyl)-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one in 300 ml of methylene chloride is treated with 70 g of manganese dioxide and stirred at room temperature for ca 0.75 hour. After filtration over Dicalit, the filtrate is evaporated in vacuo and the residue is washed with ca 100 ml of boiling ethyl acetate. There is obtained (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxaldehyde of melting point 206°-208° C.

reactant | (S)-11,12,13,13a-tetrahydro-1-(hydroxymethyl)-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 45 mmol, 12.1 g | OCC=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CCC1 | C15H15N3O2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 70 g | [O-2].[O-2].[Mn+4]
product | (S)-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxaldehyde | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C=O)CCC2 | C15H13N3O2
